US08048878B2
Synthesis of diethyl [(6S*,9aR*)-6-(4-methoxyphenyl)-4-oxooctahydroquinolizin-3-yl]phosphonate
A mixture of (6R*,9aS*)-3-iodo-6-(4-methoxyphenyl)octahydroquinolizin-4-one (34 mg) with triethyl phosphite (1 mL) was stirred at 120° C. for five hours. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure to obtain 35 mg of the title compound. The property value of the compound is as follows.

reactant | (6R*,9aS*)-3-iodo-6-(4-methoxyphenyl)octahydroquinolizin-4-one | 34 mg | IC1CC[C@@H]2CCC[C@@H](N2C1=O)C1=CC=C(C=C1)OC | C16H20INO2
reactant | triethyl phosphite | 1 mL | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl [(6S*,9aR*)-6-(4-methoxyphenyl)-4-oxooctahydroquinolizin-3-yl]phosphonate | 35 mg | COC1=CC=C(C=C1)[C@H]1N2C(C(CC[C@H]2CCC1)P(OCC)(OCC)=O)=O | C20H30NO5P
